US07115607B2
To a 500 mL round-bottomed flask equipped with magnetic stirring was added 2-fluoronitrobenzene (14 g, 101 mmol), DIEA (19 mL, 110 mmol), 1-benzylpiperazine (18 mL, 110 mmol) (Aldrich) and DMF (250 mL). The reaction was stirred for 18 h, diluted with 400 mL of EtOAc and washed with 300 mL each of 10% NaHCO3, H2O, and brine. The organic layer was separated, dried over Na2SO4, filtered, and concentrated in vacuo to yield 1-(2-nitrophenyl)-4-benzylpiperazine (30 g). Calc'd for C17H19N3O2: 297.15.

reactant | 2-fluoronitrobenzene | 101 mmol, 14 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | DIEA | 110 mmol, 19 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-benzylpiperazine | 110 mmol, 18 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | 1-(2-nitrophenyl)-4-benzylpiperazine | 30 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCN(CC1)CC1=CC=CC=C1 | C17H19N3O2
